US06649600B1
8-(5-Hydroxy-9-oxa-bicyclo[3.3.1]non-1-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
1,3-Dipropyl-7-pyrrolidin-1-ylmethyl-3,7-dihydro-purine-2,6-dione (638 mg) was taken in dry THF (10 ml) at −78° C. nBuLi (0.88 ml, 2.5M in hexane) was added slowly. The reaction mixture turned orange and stirred for 30 min at −78° C. Cyclooctane-1,5-dione (280 mg,) was dissolved in 3 ml of dry THF, added to the reaction mixture. Stirred at −78° C. for 30 min, slowly warmed to rt and stirred overnight. The reaction mixture was quenched with sat NH4Cl and extracted with ethyl acetate (3×50 ml). Combined organic layer was washed with 1N HCl, water, and brine. Dried over anhydrous Na2SO4 and concentrated. The crude product was purified on silica column, eluted with ethyl acetate:hexane (1:1). Mass (ES+ 377)

reactant | 1,3-Dipropyl-7-pyrrolidin-1-ylmethyl-3,7-dihydro-purine-2,6-dione | 638 mg | C(CC)N1C(N(C=2N=CN(C2C1=O)CN1CCCC1)CCC)=O | C16H25N5O2
reactant | nBuLi | 2.5M, 0.88 ml | [Li]CCCC
reactant | Cyclooctane-1,5-dione | 280 mg | C1(CCCC(CCC1)=O)=O | C8H12O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 8-(5-Hydroxy-9-oxa-bicyclo[3.3.1]non-1-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | OC12CCCC(CCC1)(O2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C19H28N4O4
